US07285557B2
N-{4-[6-(4-chlorophenyl)-4-oxothieno[3,2-d]pyrimidin-3(4H)-yl]-2-methoxyphenyl}-4-methylbenzenesulfonamide
A pyridine (1 mL) solution of 3-(4-Amino-3-methoxyphenyl)-6-(4-chloro-phenyl)thieno[3,2-d]pyrimidin-4(3H)-one (0.050 g, 0.0013 mol, the preparation of which is found in Example K13) and p-toluenesulfonyl chloride and was agitated overnight at RT, then diluted with water and filtered to give a white powder (0.056 g 81%). LCMS m/z 538 (MH+). 1H NMR (300 MHz, DMSO-d6) δ 9.72 (s, 1H), 8.40 (s, 1H), 8.00 (s, 1H), 7.95 (d, 2H), 7.70 (d, 2H), 7.60 (d, 2H), 7.38 (d, 2H), 7.35 (d, 1H), 7.20 (s, 1H), 7.05 (d, 1H), 3.62 (s, 3H), 2.41 (s, 3H) ppm.

reactant | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
reactant | 3-(4-Amino-3-methoxyphenyl)-6-(4-chloro-phenyl)thieno[3,2-d]pyrimidin-4(3H)-one | NC1=C(C=C(C=C1)N1C=NC2=C(C1=O)SC(=C2)C2=CC=C(C=C2)Cl)OC | C19H14ClN3O2S
reactant | p-toluenesulfonyl chloride | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | water | O | H2O
product | N-{4-[6-(4-chlorophenyl)-4-oxothieno[3,2-d]pyrimidin-3(4H)-yl]-2-methoxyphenyl}-4-methylbenzenesulfonamide | ClC1=CC=C(C=C1)C1=CC=2N=CN(C(C2S1)=O)C1=CC(=C(C=C1)NS(=O)(=O)C1=CC=C(C=C1)C)OC | C26H20ClN3O4S2
